US04931449
3.3 Ethyl 4-hydroxymethyl-1-piperidinecarboxylate.
168.3 g (1.22 mol) of potassium carbonate are added to a solution of 61.6 g (406 mmol) of 4-piperidinemethanol hydrochloride in a mixture of 406 ml of chloroform and 406 ml of water, followed by 42.55 ml (440 mmol) of ethyl chloroformate dissolved in 160 ml of chloroform. The mixture is stirred for 3 h at 20° C., the organic phase is separated off, the aqueous phase is extracted with dichloromethane, the organic phases are combined to form a single phase, washed with water and dried over magnesium sulphate, and the solvents are evaporated off under reduced pressure. 76 g of an oil is obtained, this being used without further treatment in the following stage.

reactant | potassium carbonate | 1.22 mol, 168.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-piperidinemethanol hydrochloride | 406 mmol, 61.6 g | Cl.N1CCC(CC1)CO
reactant | ethyl chloroformate | 440 mmol, 42.55 ml | ClC(=O)OCC | C3H5ClO2
solvent | chloroform | 406 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 406 ml | O | H2O
solvent | chloroform | 160 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 4-hydroxymethyl-1-piperidinecarboxylate | 76 g | OCC1CCN(CC1)C(=O)OCC | C9H17NO3
